US04895950
2-Amino-3-chloro-5-pyridyl bromomethyl ketone
16 g (0.1 mol) of bromine are added dropwise to a solution of 17.0 g (0.1 mol) of 2-amino-3-chloro-5-acetylpyridine in a mixture of 19.3 g of hydrogen bromide (47% strength aqueous solution; 0.11 mol) and 500 ml of glacial acetic acid. The mixture is subsequently stirred for two hours, brought to pH 8 and extracted with ethyl acetate. Drying and evaporation gives 18.5 g (74%) of the title compound, melting point 134° C. Example of the preparation of the pyridyl-aminomethyl ketones

reactant | bromine | 0.1 mol, 16 g | BrBr | Br2
reactant | 2-amino-3-chloro-5-acetylpyridine | 0.1 mol, 17.0 g | NC1=NC=C(C=C1Cl)C(C)=O | C7H7ClN2O
reactant | hydrogen bromide | 0.11 mol, 19.3 g | Br | BrH
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 2-Amino-3-chloro-5-pyridyl bromomethyl ketone | 18.5 g, 74% | BrCC(=O)C=1C=C(C(=NC1)N)Cl | C7H6BrClN2O
